US07902252B2
2.66. Synthesis of methyl 4-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.3 g, 1.7 mmol) was reacted with (4-chlorophenyl)magnesium bromide (6.7 mL, IM in diethyl ether, 6.7 mmol, 4 equiv) according to General Procedure 3. The resulting endo-olefin (methyl 4-(4-chlorophenyl)-1,6-dihydrocyclopenta[b]pyrrole-2-carboxylate) was converted to the title compound by hydrogenation according to General Procedure 6 (with 5% Pd/C). The crude product was purified by preparative HPLC using the Chromeleon purification system. A 0.1% formic acid/1% acetonitrile mixture in water (aqueous phase) and methanol (no modifier added—organic phase) using a 50 mm Dynamax HPLC C-18 column at 28 mL/min (initial gradient of 60% methanol and increasing to 100% over 7 minutes) afforded the title compound. 49.2 mg. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.84 (br. s, 1H), 7.23-7.27 (m, 2H), 7.10-7.16 (m, 2H), 6.62 (d, J=1.61 Hz, 1H), 4.20 (t, J=7.22 Hz, 1H), 3.83 (s, 3H), 2.72-2.99 (m, 3H), 2.20-2.31 (m, J=12.81, 8.65, 6.47, 6.47 Hz, 1H).

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 1.7 mmol, 0.3 g | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | (4-chlorophenyl)magnesium bromide | 6.7 mmol, 6.7 mL, 4 equiv | ClC1=CC=C(C=C1)[Mg]Br
catalyst | Pd/C | [Pd] | Pd
product | methyl 4-(4-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | ClC1=CC=C(C=C1)C1CCC=2NC(=CC21)C(=O)OC | C15H14ClNO2
